* LF356 Op Amp Model
* Version: 003 
* Date: 12/07/2018
* Author: Nazar Shtybel
* E-mail: nazar@s-audio.systems
* 
* The following parameters are modeled:
* 1. Open loop gain and phase with RL and CL effects
* 2. AC/DC Common mode rejection ratio
* 3. AC/DC Power supply rejection ratio
* 4. Slew rate
* 5. Input voltage noise with 1/f
* 6. Input curent noise with 1/f
* 7. Input bias current with common mode and temperature effects
* 8. Input offset current with temperature effects
* 9. Input offset voltage with temperature effects
* 10. Input impedance
* 11. Output current through the supply rails
* 12. Output current limit 
* 13. Output voltage swing from rails with RL effects
* 14. Output impedance
* 15. Quiescent current vs Supply voltage with temperature effects
* 16. Maximum supply voltage breakdown
* 17. Overload recovery / No phase reversal
* 18. Input common mode voltage range
*
* Connections:
*                 Non-Inverting Input
*                 | Inverting Input
*                 | | +Supply Voltage
*                 | | | -Supply Voltage
*                 | | | | Output
*                 | | | | | 
.SUBCKT LF356_SN  1 2 3 4 5

D1 8 10 DX
D3 7 10 DX
D2 9 8 DX
D4 9 7 DX
E4 7 19 15 0 1
R9 16 15 1
R7 11 12 1
R8 13 11 1
G3 0 15 11 14 0.000006
L1 16 0 0.22m
E1 12 0 1 0 1
E2 13 0 2 0 1
E5 19 22 21 0 1
R13 0 21 8k
E3 14 4 3 4 0.5
R10 0 16 1000k
C2 0 2 3p
C1 1 0 3p
E6 22 28 3 4 0.00002
G2 2 0 6 0 0.87
R4 6 0 1E-12 TC=1e-2
I1 0 6 30
G1 1 0 6 0 1
R2 1 2 0.5E+12
R1 0 1 0.5E+12
R3 2 0 0.5E+12
R24 39 0 1
C4 39 0 5600u
G10 0 39 36 0 1
G9 0 36 30 8 200000
R23 36 0 1
D9 36 37 DX
D11 38 36 DX
D12 38 0 DSRN
D10 0 37 DSRP
G11 0 40 39 0 1
R25 40 0 1
C5 40 0 3.8n
V3 20 0 0.235
D5 20 21 DN
R20 0 34 6E-9
V5 33 0 0.235
D7 33 34 DNC
G7 0 2 34 0 1
R19 0 32 6E-9
V4 31 0 0.235
D6 31 32 DNC
G6 0 1 32 0 1
G12 0 41 40 0 1
R26 41 0 1
C6 41 0 3.8n
C8 50 42 1p
D13 42 43 DX
E9 43 0 45 42 100
D14 44 42 DX
E10 44 0 46 42 100
R21 3 4 16.6k
D8 4 3 DB
G8 3 4 35 0 1
R22 0 35 1 TC=-3.0e-3
I3 0 35 0.003
E8 28 30 29 0 1
R18 0 29 1 TC=-1.1e-3
I2 29 0 0.003
L5 54 5 10n
R28 50 45 1 TC=-3.4e-3
I4 50 45 1
R29 50 46 1 TC=-3.4e-3
I5 46 50 1
G13 0 42 41 0 1
R27 42 0 1
C7 42 0 3.8n
R5 7 1 100
R6 8 2 100
V2 3 10 -0.7
V1 9 4 2.5
G14 50 49 49 42 0.03125
G15 51 50 42 51 0.03125
R30 49 50 32
R31 50 51 32
D15 48 49 DX
D16 51 52 DX
D17 50 49 DY
D18 51 50 DY
R32 54 50 1
V7 47 48 1.25
V8 52 53 1.25
E11 3 47 50 54 100
E12 4 53 50 54 300

.model DX D(IS=1E-15)
.model DN D(KF=250e-14 T_ABS=27)
.model DY D(IS=1E-15 BV=50)
.model DB D(BV=46 T_ABS=27)
.model DNC D(KF=100e-2 T_ABS=27)
.model DSRP D(BV=78K)
.model DSRN D(BV=170K)

.ENDS LF356_SN
